US06403610B1
A stirred mixture of 0.54 g of methyl (3R,4R)-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin-4-yl)propyl]piperidine-3-carboxylate, 0.295 g of 2-chloroethyl cyclohexyl sulfide, 0.23 g of potassium carbonate, and 0.27 g of potassium iodide in 9 cm3 of acetonitrile and 1 cm3 of methanol was brought to a temperature in the region of the boiling point under an inert atmosphere for 20 hours. The reaction mixture was concentrated under reduced pressure (5 kPa) at a temperature in the region of 40° C. The residue obtained was purified by chromatography under an argon pressure of 80 kPa on a column of silica gel (particle size 40-63 μm; diameter 3.5 cm; height 35 cm), elution was carried out with a dichloromethane/methanol (95/5 by volume) mixture, and 35-cm3 fractions were collected. Fractions 23 to 40 were combined and then concentrated under reduced pressure (5 kPa) at a temperature in the region of 40° C. 0.4 g of methyl (3R,4R)-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin-4-yl)propyl]-1-[2-(cyclohexylthio)ethyl]piperidine-3-carboxylate was obtained in the form of a lacquer with a brown color.

reactant | methyl (3R,4R)-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin-4-yl)propyl]piperidine-3-carboxylate | 0.54 g | OC(CC[C@H]1[C@H](CNCC1)C(=O)OC)C1=CC=NC2=CC=C(C=C12)OC | C20H26N2O4
reactant | 2-chloroethyl cyclohexyl sulfide | 0.295 g | C1(CCCCC1)SCCCl | C8H15ClS
reactant | potassium carbonate | 0.23 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.27 g | [I-].[K+]
solvent | acetonitrile | 9 cm3 | C(C)#N | C2H3N
solvent | methanol | 1 cm3 | CO | CH4O
product | methyl (3R,4R)-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin-4-yl)propyl]-1-[2-(cyclohexylthio)ethyl]piperidine-3-carboxylate | 0.4 g | OC(CC[C@H]1[C@H](CN(CC1)CCSC1CCCCC1)C(=O)OC)C1=CC=NC2=CC=C(C=C12)OC | C28H40N2O4S
